US07410966B2
4-(6-Chloro-7-methyl-3H-imidazo[4,5-b]pyridin-2-yl)-N1-(2-morpholin-4-ylethyl)benzene-1,2-diamine
5-Chloro-4-methylpyridine-2,3-diamine (Example 249b) (1.47 g, 9 mmol) and 4-fluoro-3-nitrobenzoic acid (1.73 g, 9 mmol) were mixed in phosphorous oxychloride (50 ml) and heated to 110° C. for 64 h. When cool, the excess phosphorous oxychloride was removed in vacuo to afford a brown semi-solid (about 4 g) consisting of 6-chloro-2-(4-fluoro-3-nitrophenyl)-7-methyl-3H-imidazo[4,5-b]pyridine and various inorganic material. To 1.0 g of this crude material, (2-morpholin-4-ylethyl)amine (2 ml) was added and the mixture heated in the microwave oven (180° C., 20 min).

reactant | 6-chloro-2-(4-fluoro-3-nitrophenyl)-7-methyl-3H-imidazo[4,5-b]pyridine | ClC=1C(=C2C(=NC1)NC(=N2)C2=CC(=C(C=C2)F)[N+](=O)[O-])C | C13H8ClFN4O2
reactant | (2-morpholin-4-ylethyl)amine | 2 ml | N1(CCOCC1)CCN | C6H14N2O
product | 4-(6-Chloro-7-methyl-3H-imidazo[4,5-b]pyridin-2-yl)-N1-(2-morpholin-4-ylethyl)benzene-1,2-diamine | ClC=1C(=C2C(=NC1)NC(=N2)C=2C=C(C(=CC2)NCCN2CCOCC2)N)C | C19H23ClN6O
